2134-05-22 07:17:00 Physician Resident Progress Note
TITLE: SUB-INTERN PROGRESS NOTE
   24 Hour Events:
   - Ultrasound-guided paracentesis (1.4L removed); peritoneal fluid
   consistent with SBP; ceftriaxone 1g IV daily x5 days, albumin 1.5g/kg
   - SAAG = serum albumin - peritoneal fluid albumin = 3.4-1.1 = 2.3,
   consistent with portal hypertension; total protein ascites 1.7 vs.
   serum 6.5
   - TTE with AS, valve area 0.9cm2; mild LVH with presernved EF;
   PCWP>18mmHg; 2+ MR; mild pulmonary artery systolic hypertension; no
   pericardial effusion
   - UA with blood, mod leuk est, 35 WBC; Foley removed
   - RUQ duplex u/s:  Normal Doppler patency and flow of the hepatic
   veins, portal vein
   - Fe urea nitrogen 27.5%, urine sodium 20; prerenal, does not exclude
   hepatorenal
   - Right shoulder pain x1 week; written for Tylenol, 2g maximum
   Allergies:
   Amoxicillin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2134-5-21**] 08:12 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-22**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 51 (44 - 65) bpm
   BP: 113/46(63) {92/21(45) - 125/81(89)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
                  Total In:
                                                                  1,389 mL
                                                                    165 mL
   PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                     94 mL
   Blood products:
                                                                    235 mL
                                                                    165 mL
   Total out:
                                                                  2,062 mL
                                                                      0 mL
   Urine:
                                                                    347 mL
   NG:
   Stool:
   Drains:
                                                                  1,400 mL
   Balance:
                                                                   -673 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: ROOM AIR
   SpO2: 96%
   Physical Examination
   GENERAL:  Resting comfortably with head of bed elevated 30 degrees.
   Oriented x3.
   SKIN:  Not jaundiced. Mild erythema at nasal bridge, cheeks. No palmar
   erythema. No spider angiomata. No caput.
   HEENT:  NCAT. Sclera anicteric. EOMI. Conjunctiva pale.
   NECK:  Supple. No appreciable JVD (exam limited [**2-1**] body habitus)
   CARDIAC:  RRR, normal S1, quiet S2; III/VI holosystolic murmur loudest
   at LUSB
   LUNGS:  Diffuse expiratory wheezes; no crackles, rhonchi appreciated
   ABDOMEN:  Obese; visible hernia below right breast, periumbilical;
   soft, nontender. Dull to percussion, unable to appreciate fluid wave.
   EXTREMITIES:  No lower extremity edema. Radial, DP pulses 2+.
   Neuro:  No asterixis; CNII-XII intact; EOMI; upper and lower extremity
   strength 5/5 and equal bilaterally.
   Labs / Radiology
   114 K/uL
   8.8 g/dL
   133 mg/dL
   3.5 mg/dL
   16 mEq/L
   4.7 mEq/L
   70 mg/dL
   107 mEq/L
   135 mEq/L
   25.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2134-5-21**]  02:05 PM
                             [**2134-5-22**]  03:26 AM
   WBC
   19.0
   9.4
   Hct
   32.6
   25.9
   Plt
   172
   114
   Cr
   3.3
   3.5
   Glucose
   160
   133
   Other labs: PT / PTT / INR:18.7/33.3/1.7, ALT / AST:[**12-11**], Alk Phos / T
   Bili:54/0.7, Differential-Neuts:91.2 %, Lymph:6.5 %, Mono:2.2 %,
   Eos:0.1 %, Albumin:3.7 g/dL, LDH:141 IU/L, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS, bradycardia, hypotension,
   leukocytosis, and ARF on CRI, in the setting of increasing shortness of
   breath and abdominal girth.
   # SBP / ASCITES / CIRRHOSIS.
        The patient
s increasing abdominal girth is due to increasing
   peritoneal ascites. Her shortness of breath was probably caused by the
   accumulation of ascites in two ways: (a) via a restrictive process
   where the pressure of the fluid against her lungs and chest wall
   increases the work of breathing; and (b) via the spontaneous bacterial
   peritonitis (SBP) that is present in the ascites, which increases her
   white count, and her non-gap acidosis which causes increased CO2
   production, causes tachypnea to blow off excess CO2, resulting in
   discomfort of breathing.
        In order to evaluate the patient
s ascites, an ultrasound-guided
   paracentesis was performed yesterday. The scan showed ~5L of peritoneal
   fluid, of which approximately 1.4L was removed and showed WBC of >2900
   with 92% poly
s (absolute ~2600 polys) and ascitic fluid total protein
   (AFTP) 1.7. The high number of polys (>250) with low AFTP (<2.5)
   suggests SBP. Measurement of the AFTP assists in differentiating SBP
   from secondary bacterial peritonitis, because lowest protein
   concentration correlates with the highest risk of developing SBP. It is
   thought that the low protein concentration correlates with low
   concentrations of opsonins, which decreases the response of innate
   immunity in the peritoneum and thus predisposes to infection (see
   [**Last Name (un) 7710**], Gastrooenterology [**2110**]; and [**Last Name (un) 7710**], Hepatology [**2112**]). We know
   that most cases of SBP are due to gut bacteria (E. coli, Klebsiella)
   and that sometimes even streptococcus and infrequently staphylococcus
   can be the culprit, so treatment with somewhat broad-spectrum
   antibiotics is warranted at least initially. Therefore, our patient was
   started on ceftriaxone 1g IV daily x5 days (day 1=[**2134-5-21**]).
   Furthermore, patients with cirrhosis and SBP frequently have impaired
   renal function, which often results in increased morbidity and
   mortality. By administering IV albumin (which expands plasma volume and
   increases blood flow to the kidneys), one reduces morality rates at
   three months from 41% to 22% (see Sort et [**Doctor Last Name **], NEJM [**2123**]). Therefore,
   our patient was also given albumin 1.5g/kg yesterday and will receive
   an additional 1.0g/kg on day 3 ([**2134-5-23**]). In terms of long-term
   prophylaxis, the patient will require a weekly dose of 750 mg
   ciprofloxacin for the rest of her life, which will decrease the
   incidence of recurrent SBP from 22% to 3.6% (see Rolachon et [**Doctor Last Name **],
   Hepatology [**2119**]).
        The etiology of her ascites is portal hypertension as evidenced by
   her high gradient SAAG (serum albumin - peritoneal fluid albumin =
   3.4-1.1 = 2.3, where high gradient is >1.1, which has 97% accuracy for
   predicting portal hypertension [see [**Last Name (un) 7710**] et [**Doctor Last Name **], Annals of Internal
   Medicine [**2116**]]). Importantly, high vs. low gradient SAAG is not the
   same as transudative/exudative ascites, which refers specifically to
   AFTP concentration (not albumin). In general, top of the differential
   diagnosis for portal hypertension includes cirrhosis, CHF, and
   alcoholic hepatitis. In our patient, cirrhosis is the most likely
   etiology because the vast majority of patients with SBP have portal
   hypertension secondary to cirrhosis. Furthermore, CHF is an unlikely
   cause (even in the setting of her aortic stenosis) because her EF is
   normal at ~60% and she has low AFTP (CHF is associated with high AFTP).
   Lastly, alcoholic hepatitis is unlikely because she denies a history of
   extensive alcohol abuse.
        The etiology of her cirrhosis, on the other hand, is much more
   elusive. The two most common causes in the USA are alcohol and
   Hepatitis C. Again, a lack of history of alcohol abuse and elicit drug
   abuse make these less likely etiologies. Another possibility is
   nonalcoholic steatohepatitis, but only a biopsy can offer a more
   definitive diagnosis. Given her Cr = 3.5, Tbili = 0.7, INR = 1.7, her
   calculated MELD score is 23, which is associated with ~90% survival at
   3 months (see Kamath et [**Doctor Last Name **], Hepatology [**2125**]).
   -          Continue on ceftriaxone 1 g qd for 5 days (day 1 = [**2134-5-21**])
   -          Albumin 1.0g/kg on [**2134-5-23**]
   -          Will consider Cipro 750 mg qweek after ceftriaxone is
   discontinued
   -          Appreciate recommendation from Dr. [**First Name (STitle) 2578**] (hepatology)
   -          Low salt diet, fluid restriction
   # AORTIC STENOSIS.  The patient has what we believe to be new-onset
   aortic stenosis, with our TTE showing aortic valve area of 0.9cm^2,
   peak gradient ~80 and mean gradient ~50. Given her current infection
   with SBP and lack of severe symptoms related to AS, aggressive
   intervention should be delayed until her infection is cleared.
   Afterwards, she may be evaluated for valvuloplasty (a temporary
   solution) or aortic valve replacement (a more permanent solution). The
   usual indications for AVR surgery include dyspnea on exertion (5 year
   survival from time of diagnosis), angina with exertion (3 year
   survival), or syncope with exertion (1 year survival), or severe LV
   dysfunction from AVR. Given that the running hypothesis is that her
   dyspnea over the past couple of days is due to SBP and the resultant
   tachypnea, she does not have any of these indications for surgery.
   # BRADYCARDIA.  The patient becomes bradycardic during the night to the
   low 40s. This was consistent with what happened at the outside
   hospital, where EKGs suggest junctional rhythm given the lack of P
   waves. This is most likely due to carvedilol
toxicity.
 Given that the
   patient has cirrhosis, she has decreased hepatic metabolism of
   carvedilol, which effectively enhances the doses she receives. Since
   carvedilol is a beta-blocker, she is probably experiencing
   supra-therapeutic effects of the drug that are causing her to become
   bradycardic. We have discontinued her carvedilol and hypothesize that
   her bradycardia should resolve soon. In the future she will need to be
   on a smaller dose, if at all. Given that she also has chronic renal
   failure, switching to a drug that is renally metabolized will probably
   not be a feasible alternative.
   -          hold carvedilol given cirrhosis/ascites
   -          EP consulted for evaluation for pacemaker placement
   -          Hold beta-blocker, calcium-channel blocker
   -          Atropine at bedside
   -          Monitor on telemetry
   # ACUTE ON CHRONIC RENAL FAILURE.  The patient most likely has acute
   (Cr 3.5) on chronic renal failure (baseline Cr 1.7) due to ATN that
   occurred during her episodes of supra-therapeutic drug action causing
   hypotension. Differential also includes ATN secondary to prerenal
   etiology given poor cardiac output secondary to aortic stenosis. [**Month (only) 51**]
   also be secondary to medications - recently started on HCTZ. We will
   send for urine-lytes/osmolarity/Na to further assess.
        The most feared etiology would be hepatorenal syndrome
   (development of acute renal failure in a patient who has advanced liver
   disease due to cirrhosis) because prognosis for these patients is poor,
   with a median survival of 3.3 months (see Alessandria et [**Doctor Last Name **], Hepatology
   [**2129**]). ARF in these patients occurs due to splanchnic vasodilatation
   and increases in nitric oxide circulation, which eventually reduces GFR
   and damages the kidneys. Diagnostic criteria for hepatorenal syndrome
   include a rise in creatinine above 1.5, absence of other causes for
   renal disease (including shock, bacterial infection, SBP, nephrotoxic
   durg use, post-renal obstruction), urine red cell excretion of less
   than 50 cells per HPF, and lack of improvement in renal function after
   volume expansion with IV albumin for at least two days. Given that she
   has a good story for other causes of ARF (i.e. SBP and some component
   of hypotension), the fact that her renal function did not improve with
   IV albumin is not as suggestive of hepatorenal syndrome, because she
   likely has ATN which will take at least a few days to recover.
   Therefore, we will trend her creatinine and we do not expect to see a
   fall until at least 3-5 days (approximately [**Date range (1) 7721**]).
   -          Continue trending creatinine daily
   -          IV albumin tomorrow
   -          Nephrology consult
   -          Urine lytes, UA
   -          Close monitoring of urine output
   -          Hold diuretics
   # ANEMIA.  The patient had a drop in hematocrit from 32 to 25 today.
   This is worrying because it could suggest a GI bleed. She was put on a
   PPI and a type and screen was sent. We will guaiac her stools to check
   for GI bleed.
   -          guaiac stool
   # HYPOTENSION.  The patient
s hypotension has now resolved. She is no
   longer on dopamine. She may have been dehydrated and/or overmedicated.
   Although septic shock was initially suspected given her leukocytosis,
   her WBC has now dropped to 19 and she has no fever. Furthermore, her
   liver disease may play a role in dropping her blood pressure in the
   context of decreased production of albumin.
   -          Hold anti-hypertensives
   -          On ceftriaxone now
   #. CORONARIES:  CAD s/p CABG. Anatomy as listed previously. No chest
   pain currently or prior to OSH admission, although this is not
   necessarily reassuring in this female, diabetic patient. By report,
   cardiac biomarkers were negative at outside hospital.
   - Continue aspirin 325mg PO daily
   - Hold beta-blocker given recent bradycardia, hypotension
   - Continue simvastatin 20mg PO daily
   .
   #. PUMP:  Per signout, patient was thought to be fluid overloaded at
   OSH, BNP 741 with anasarca, net fluid balance +300ml yesterday, +500ml
   today prior to transfer. TTE there showed preserved EF 65-70% but new
   finding of severe AS with valve area of 0.7. Patient with hypotension
   requiring initation of dopamine gtt.
   - Hold beta-blocker given recent bradycardia, hypotension.
   - Hold lasix
   #. Diabetes melliitus, type II:
   - Continue Humalog sliding scale per home regimen
   ICU Care
   FEN:  Diabetic, heart healthy, low-salt diet, kidney-friendly (low
   protein), and liver healthy diet; fluid restriction 1.5L; replete lytes
   as needed
   ACCESS:  PIV x2
   PROPHYLAXIS:  Heparin SC TID; pneumoboots; home PPI; bowel regimen
   CONTACT:  [**Name (NI) 1125**] ([**Name2 (NI) 2685**], HCP), ([**Telephone/Fax (1) 7698**]
   CODE:  FULL CODE. Patient wishes to discuss this with family before
   making any other decisions.
   DISPO: CCU for now
   16:36
   ------ Protected Section ------
   Agree with findings and plan as outline in excellent MS4 note by
   Dryzmalski.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4058**], MD
   on:[**2134-5-23**] 08:06 ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **] from [**2134-5-21**] and [**Doctor Last Name 4058**]
   [**2134-5-22**].
   I would add the following remarks:
   Medical Decision Making
   She has not had significant bradycardia here and etiology of transient
   bradycardia may be some degree of contribution from her infection.  I
   suspect that she will not need a pacemaker but will obtain EP input.
   Hold dopamine.   Consult renal service regarding management of anuric
   renal failure.  Her Aortic stenosis does not seem to be a major
   hemodynamic contributor.  Treat for spontaneous bacterial peritonitis.
   Date of service [**2134-5-22**]  Time spent with patient 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2134-5-23**] 09:56 ------

2134-05-23 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Shock - cardiogenic
   24 Hour Events:
   - Hct drop to 25.9 with am labs. Guaiac neg. Repeat Hct 28.2
   - Fena 0.3
   - Code status confirmed as FULL
   - Renal c/s - More c/w Pre-renal azotemia. Urine sediment with many
   casts more c/w ATN. Less likely HRS given normal BPs and active
   sediment. Added on Urine Eos.
   - Liver c/s - Did not see patient, but suggested midodrine and
   octreotide. Decision deferrred until Liver team can see the patient in
   person
   - EP recs none
   History obtained from Patient
   Allergies:
   History obtained from PatientAmoxicillin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2134-5-21**] 08:12 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2134-5-22**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2134-5-22**] 11:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-23**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 57 (53 - 60) bpm
   BP: 151/55(77) {102/40(62) - 154/77(90)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 77 kg (admission): 79.8 kg
   Height: 61 Inch
                  Total In:
                                                                  1,515 mL
                                                                    260 mL
   PO:
                                                                    840 mL
                                                                    260 mL
   TF:
   IVF:
                                                                    510 mL
   Blood products:
                                                                    165 mL
   Total out:
                                                                    328 mL
                                                                    285 mL
   Urine:
                                                                    328 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,187 mL
                                                                    -25 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   131 K/uL
   9.2 g/dL
   132 mg/dL
   3.4 mg/dL
   17 mEq/L
   4.5 mEq/L
   79 mg/dL
   108 mEq/L
   134 mEq/L
   27.7 %
   8.2 K/uL
        [image002.jpg]
                             [**2134-5-21**]  02:05 PM
                             [**2134-5-22**]  03:26 AM
                             [**2134-5-22**]  03:00 PM
                             [**2134-5-23**]  05:42 AM
   WBC
   19.0
   9.4
   8.2
   Hct
   32.6
   25.9
   28.2
   27.7
   Plt
   172
   114
   131
   Cr
   3.3
   3.5
   3.7
   3.4
   Glucose
   160
   133
   140
   132
   Other labs: PT / PTT / INR:16.3/31.2/1.5, ALT / AST:15/18, Alk Phos / T
   Bili:73/0.6, Differential-Neuts:84.6 %, Lymph:11.4 %, Mono:2.6 %,
   Eos:1.1 %, Albumin:3.6 g/dL, LDH:157 IU/L, Ca++:8.2 mg/dL, Mg++:2.3
   mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 AORTIC STENOSIS
 ASCITES
 KNOWLEDGE DEFICIT
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS, bradycardia, hypotension,
   leukocytosis, and ARF on CRI, in the setting of increasing shortness of
   breath and abdominal girth.
   # SBP / ASCITES / CIRRHOSIS.
        The patient
s increasing abdominal girth is due to increasing
   peritoneal ascites. Her shortness of breath was probably caused by the
   accumulation of ascites in two ways: (a) via a restrictive process
   where the pressure of the fluid against her lungs and chest wall
   increases the work of breathing; and (b) via the spontaneous bacterial
   peritonitis (SBP) that is present in the ascites, which increases her
   white count, and her non-gap acidosis which causes increased CO2
   production, causes tachypnea to blow off excess CO2, resulting in
   discomfort of breathing.
        In order to evaluate the patient
s ascites, an ultrasound-guided
   paracentesis was performed yesterday. The scan showed ~5L of peritoneal
   fluid, of which approximately 1.4L was removed and showed WBC of >2900
   with 92% poly
s (absolute ~2600 polys) and ascitic fluid total protein
   (AFTP) 1.7. The high number of polys (>250) with low AFTP (<2.5)
   suggests SBP. Measurement of the AFTP assists in differentiating SBP
   from secondary bacterial peritonitis, because lowest protein
   concentration correlates with the highest risk of developing SBP. It is
   thought that the low protein concentration correlates with low
   concentrations of opsonins, which decreases the response of innate
   immunity in the peritoneum and thus predisposes to infection (see
   [**Last Name (un) 7710**], Gastrooenterology [**2110**]; and [**Last Name (un) 7710**], Hepatology [**2112**]). We know
   that most cases of SBP are due to gut bacteria (E. coli, Klebsiella)
   and that sometimes even streptococcus and infrequently staphylococcus
   can be the culprit, so treatment with somewhat broad-spectrum
   antibiotics is warranted at least initially. Therefore, our patient was
   started on ceftriaxone 1g IV daily x5 days (day 1=[**2134-5-21**]).
   Furthermore, patients with cirrhosis and SBP frequently have impaired
   renal function, which often results in increased morbidity and
   mortality. By administering IV albumin (which expands plasma volume and
   increases blood flow to the kidneys), one reduces morality rates at
   three months from 41% to 22% (see Sort et [**Doctor Last Name **], NEJM [**2123**]). Therefore,
   our patient was also given albumin 1.5g/kg yesterday and will receive
   an additional 1.0g/kg on day 3 ([**2134-5-23**]). In terms of long-term
   prophylaxis, the patient will require a weekly dose of 750 mg
   ciprofloxacin for the rest of her life, which will decrease the
   incidence of recurrent SBP from 22% to 3.6% (see Rolachon et [**Doctor Last Name **],
   Hepatology [**2119**]).
        The etiology of her ascites is portal hypertension as evidenced by
   her high gradient SAAG (serum albumin - peritoneal fluid albumin =
   3.4-1.1 = 2.3, where high gradient is >1.1, which has 97% accuracy for
   predicting portal hypertension [see [**Last Name (un) 7710**] et [**Doctor Last Name **], Annals of Internal
   Medicine [**2116**]]). Importantly, high vs. low gradient SAAG is not the
   same as transudative/exudative ascites, which refers specifically to
   AFTP concentration (not albumin). In general, top of the differential
   diagnosis for portal hypertension includes cirrhosis, CHF, and
   alcoholic hepatitis. In our patient, cirrhosis is the most likely
   etiology because the vast majority of patients with SBP have portal
   hypertension secondary to cirrhosis. Furthermore, CHF is an unlikely
   cause (even in the setting of her aortic stenosis) because her EF is
   normal at ~60% and she has low AFTP (CHF is associated with high AFTP).
   Lastly, alcoholic hepatitis is unlikely because she denies a history of
   extensive alcohol abuse.
        The etiology of her cirrhosis, on the other hand, is much more
   elusive. The two most common causes in the USA are alcohol and
   Hepatitis C. Again, a lack of history of alcohol abuse and elicit drug
   abuse make these less likely etiologies. Another possibility is
   nonalcoholic steatohepatitis, but only a biopsy can offer a more
   definitive diagnosis. Given her Cr = 3.5, Tbili = 0.7, INR = 1.7, her
   calculated MELD score is 23, which is associated with ~90% survival at
   3 months (see Kamath et [**Doctor Last Name **], Hepatology [**2125**]).
   -          Continue on ceftriaxone 1 g qd for 5 days (day 1 = [**2134-5-21**])
   -          Albumin 1.0g/kg on [**2134-5-23**]
   -          Will consider Cipro 750 mg qweek after ceftriaxone is
   discontinued
   -          Appreciate recommendation from Dr. [**First Name (STitle) 2578**] (hepatology)
   -          Low salt diet, fluid restriction
   # AORTIC STENOSIS.  The patient has what we believe to be new-onset
   aortic stenosis, with our TTE showing aortic valve area of 0.9cm^2,
   peak gradient ~80 and mean gradient ~50. Given her current infection
   with SBP and lack of severe symptoms related to AS, aggressive
   intervention should be delayed until her infection is cleared.
   Afterwards, she may be evaluated for valvuloplasty (a temporary
   solution) or aortic valve replacement (a more permanent solution). The
   usual indications for AVR surgery include dyspnea on exertion (5 year
   survival from time of diagnosis), angina with exertion (3 year
   survival), or syncope with exertion (1 year survival), or severe LV
   dysfunction from AVR. Given that the running hypothesis is that her
   dyspnea over the past couple of days is due to SBP and the resultant
   tachypnea, she does not have any of these indications for surgery.
   # BRADYCARDIA.  The patient becomes bradycardic during the night to the
   low 40s. This was consistent with what happened at the outside
   hospital, where EKGs suggest junctional rhythm given the lack of P
   waves. This is most likely due to carvedilol
toxicity.
 Given that the
   patient has cirrhosis, she has decreased hepatic metabolism of
   carvedilol, which effectively enhances the doses she receives. Since
   carvedilol is a beta-blocker, she is probably experiencing
   supra-therapeutic effects of the drug that are causing her to become
   bradycardic. We have discontinued her carvedilol and hypothesize that
   her bradycardia should resolve soon. In the future she will need to be
   on a smaller dose, if at all. Given that she also has chronic renal
   failure, switching to a drug that is renally metabolized will probably
   not be a feasible alternative.
   -          hold carvedilol given cirrhosis/ascites
   -          EP consulted for evaluation for pacemaker placement
   -          Hold beta-blocker, calcium-channel blocker
   -          Atropine at bedside
   -          Monitor on telemetry
   # ACUTE ON CHRONIC RENAL FAILURE.  The patient most likely has acute
   (Cr 3.5) on chronic renal failure (baseline Cr 1.7) due to ATN that
   occurred during her episodes of supra-therapeutic drug action causing
   hypotension. Differential also includes ATN secondary to prerenal
   etiology given poor cardiac output secondary to aortic stenosis. [**Month (only) 51**]
   also be secondary to medications - recently started on HCTZ. We will
   send for urine-lytes/osmolarity/Na to further assess.
        The most feared etiology would be hepatorenal syndrome
   (development of acute renal failure in a patient who has advanced liver
   disease due to cirrhosis) because prognosis for these patients is poor,
   with a median survival of 3.3 months (see Alessandria et [**Doctor Last Name **], Hepatology
   [**2129**]). ARF in these patients occurs due to splanchnic vasodilatation
   and increases in nitric oxide circulation, which eventually reduces GFR
   and damages the kidneys. Diagnostic criteria for hepatorenal syndrome
   include a rise in creatinine above 1.5, absence of other causes for
   renal disease (including shock, bacterial infection, SBP, nephrotoxic
   durg use, post-renal obstruction), urine red cell excretion of less
   than 50 cells per HPF, and lack of improvement in renal function after
   volume expansion with IV albumin for at least two days. Given that she
   has a good story for other causes of ARF (i.e. SBP and some component
   of hypotension), the fact that her renal function did not improve with
   IV albumin is not as suggestive of hepatorenal syndrome, because she
   likely has ATN which will take at least a few days to recover.
   Therefore, we will trend her creatinine and we do not expect to see a
   fall until at least 3-5 days (approximately [**Date range (1) 7721**]).
   -          Continue trending creatinine daily
   -          IV albumin tomorrow
   -          Nephrology consult
   -          Urine lytes, UA
   -          Close monitoring of urine output
   -          Hold diuretics
   # ANEMIA.  The patient had a drop in hematocrit from 32 to 25 today.
   This is worrying because it could suggest a GI bleed. She was put on a
   PPI and a type and screen was sent. We will guaiac her stools to check
   for GI bleed.
   -          guaiac stool
   # HYPOTENSION.  The patient
s hypotension has now resolved. She is no
   longer on dopamine. She may have been dehydrated and/or overmedicated.
   Although septic shock was initially suspected given her leukocytosis,
   her WBC has now dropped to 19 and she has no fever. Furthermore, her
   liver disease may play a role in dropping her blood pressure in the
   context of decreased production of albumin.
   -          Hold anti-hypertensives
   -          On ceftriaxone now
   #. CORONARIES:  CAD s/p CABG. Anatomy as listed previously. No chest
   pain currently or prior to OSH admission, although this is not
   necessarily reassuring in this female, diabetic patient. By report,
   cardiac biomarkers were negative at outside hospital.
   - Continue aspirin 325mg PO daily
   - Hold beta-blocker given recent bradycardia, hypotension
   - Continue simvastatin 20mg PO daily
   .
   #. PUMP:  Per signout, patient was thought to be fluid overloaded at
   OSH, BNP 741 with anasarca, net fluid balance +300ml yesterday, +500ml
   today prior to transfer. TTE there showed preserved EF 65-70% but new
   finding of severe AS with valve area of 0.7. Patient with hypotension
   requiring initation of dopamine gtt.
   - Hold beta-blocker given recent bradycardia, hypotension.
   - Hold lasix
   #. Diabetes melliitus, type II:
   - Continue Humalog sliding scale per home regimen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-5-21**] 09:41 PM
   22 Gauge - [**2134-5-22**] 02:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: